US07932277B2
[(3R,5S)-5-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)pyrrolidin-3-yl]4-fluoroisoindoline-2-carboxylate hydrochloride (0.050 g, 0.092 mmol), (S)-2-(4-fluorophenylamino)-3-methylbutanoic acid (0.021 g, 0.10 mmol) and HATU (0.042 g, 0.11 mmol) in DCM (3 mL) was added DIEA (0.048 mL, 0.28 mmol) and the reaction was stirred at rt for 5 hr. H2O (5 mL) and saturated KHSO4 solution (3 mL) was added. The mixture was extracted with ether (15 mL), washed with brine (10 mL) and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (hexane:Ethyl acetate=1:2) to give the (3R,5S)-5-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-1-((S)-2-(4-fluorophenylamino)-3-methylbutanoyl)pyrrolidin-3-yl 4-fluoroisoindoline-2-carboxylate (0.042 g, 65%) as white solid. MS: Calcd.: 699; Found: [M+H]+ 700. 1H NMR (400 MHz, d6-DMSO) δ 10.91, 10.85 & 10.58 (s, 1H), 9.16, 9.05 & 8.84 (s, 1H), 7.40 (m, 1H), 7.04-7.21 (m, 2H), 6.71 (m, 2H), 6.60 (m, 2H), 5.62 (m, 1H), 5.10-5.17 (m, 4H), 4.68 (s, 2H), 4.41-4.60 (m, 2H), 4.32 (m, 1H), 4.09 (m, 1H), 3.97 (m, 1H), 3.80 (m, 1H), 2.94 (m, 1H), 2.22 (m 1H), 2.00-2.18 (m, 3H), 1.71 (m, 1H), 1.20-1.31 (m, 2H), 0.87-1.10 (m, 9H).

reactant | [(3R,5S)-5-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)pyrrolidin-3-yl]4-fluoroisoindoline-2-carboxylate hydrochloride | 0.092 mmol, 0.050 g | Cl.C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(=O)[C@@H]1C[C@H](CN1)OC(=O)N1CC2=CC=CC(=C2C1)F
reactant | (S)-2-(4-fluorophenylamino)-3-methylbutanoic acid | 0.10 mmol, 0.021 g | FC1=CC=C(C=C1)N[C@H](C(=O)O)C(C)C | C11H14FNO2
reactant | HATU | 0.11 mmol, 0.042 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.28 mmol, 0.048 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | KHSO4 | 3 mL | OS(=O)(=O)[O-].[K+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 5 mL | O | H2O
product | (3R,5S)-5-((1R,2S)-1-(cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamoyl)-1-((S)-2-(4-fluorophenylamino)-3-methylbutanoyl)pyrrolidin-3-yl 4-fluoroisoindoline-2-carboxylate | 0.042 g, 65% | FC1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN([C@@H](C1)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1CC1)=O)=O)C([C@H](C(C)C)NC1=CC=C(C=C1)F)=O | C34H39F2N5O7S
